US07700808B2
N-(5-Chloro-2-pyrimidinyl)-4-(3-(3,5-dichlorophenyl)-4,4,4-trifluoro-2-butenoyl) benzoic acid amide (Compound No. 2-10 of the Present Invention)
To a solution of 0.5 g of 2-amino-5-chloropyrimidine in 20 mL of pyridine, 0.5 g of 4-(3-(3,5-dichlorophenyl)-4,4,4-trifluoro-2-butenoyl)benzoic acid chloride was poured at room temperature and the mixture was stirred for 2.5 hours. After that, water was added to the reaction solution that was extracted with ethyl acetate, an organic layer was washed with water and diluted hydrochloric acid and then dehydrated and dried with saturated saline followed by anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resulting residue was purified using silica gel column chromatography that was eluted with ethyl acetate-hexane (5:2) followed by crystallization from a mixed solvent of hexane and a small amount of ethyl acetate to obtain 0.31 g of aimed product as white solid.

reactant | 2-amino-5-chloropyrimidine | 0.5 g | NC1=NC=C(C=N1)Cl | C4H4ClN3
reactant | 4-(3-(3,5-dichlorophenyl)-4,4,4-trifluoro-2-butenoyl)benzoic acid chloride | 0.5 g | ClC=1C=C(C=C(C1)Cl)C(=CC(=O)C1=CC=C(C(=O)Cl)C=C1)C(F)(F)F | C17H8Cl3F3O2
reactant | water | O | H2O
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | N-(5-Chloro-2-pyrimidinyl)-4-(3-(3,5-dichlorophenyl)-4,4,4-trifluoro-2-butenoyl) benzoic acid amide | 0.31 g | ClC=1C=NC(=NC1)NC(C1=CC=C(C=C1)C(C=C(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)=O)=O | C21H11Cl3F3N3O2
